US06794405B2
Preparation of N-triphenylmethyl-4-(trans-2-amidino-cyclopropyl)imidazole
A solution of trimethylaluminium in toluene (2M, 0.6 mL, 1.2 mmol) was slowly added to a suspension of ammonium chloride (64 mg, 12 mmol) in dry toluene (5 mL) at 0° C. under nitrogen. The resulting mixture was warmed to 25° C. and stirred for 3 hours until gas evolution had ceased. Then, N-triphenylmethyl-4-(trans-2-cyano-cyclopropyl)imidazole (200 mg, 0.53 mmol) in dry toluene (10 mL) was added and the reaction mixture was heated to 80° C. for 18 hours under nitrogen, slowly poured into a slurry of silica gel (15 g) in chloroform (50 mL), and stirred for 10 minutes. The silica was filtered and washed with methanol. The combined solvent mixture was concentrated under vacuum and the residue was purified on a silica gel column using 85/15/5 (v/v/v) methylene chloride/methanol/ammonium hydroxide as the eluent to give a white solid (140 mg, 68% yield).

reactant | trimethylaluminium | C[Al](C)C
reactant | ammonium chloride | 12 mmol, 64 mg | [Cl-].[NH4+]
reactant | N-triphenylmethyl-4-(trans-2-cyano-cyclopropyl)imidazole | 0.53 mmol, 200 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)[C@H]1[C@@H](C1)C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H21N3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 1.2 mmol, 2M, 0.6 mL | C1(=CC=CC=C1)C | C7H8
product | N-triphenylmethyl-4-(trans-2-amidino-cyclopropyl)imidazole | 140 mg, 68% yield | C1(=CC=CC=C1)C(N1C=NC(=C1)[C@H]1[C@@H](C1)C(N)=N)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N4
